US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate
To a stirred solution of ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate (0.240 g, 0.495 mmol) in TFA (3 ml) at 0° C. was added triethylsilane (0.118 ml, 0.742 mmol) drop wise. The bright red solution turned light yellow on addition. The mixture was evaporated then purified by MDAP. The fractions were evaporated to give a yellow solid (0.049 g, 0.10 mmol) LC/MS: Rt=3.62, [MH]+ 470.

reactant | ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate | 0.495 mmol, 0.240 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1F)CC(=O)OCC)F)O)OCC)C=CC=C2 | C26H25F2NO6
reactant | triethylsilane | 0.742 mmol, 0.118 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate | 0.10 mmol, 0.049 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1F)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H25F2NO5
